US06303783B1
Preparation of 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl isothiocyanate
A mixture of 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-(trifluoromethyl)-2,4 (1H,3H)-pyrimidinedione (1.0 g, 2.96 mmol) in toluene is cooled to 0° C., treated sequentially with triethylamine (0.91 mL, 6.52 mmol) and thiophosgene (0.25 mL, 3.26 mmol), warmed to and stirred at room temperature for 5 hours, and filtered to remove solids. The resultant filtrate is concentrated in vacuo to give the title product as an orange solid (1.1 g, 98% yield) which is identified by 1H NMR spectral analysis.

reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-(trifluoromethyl)-2,4 (1H,3H)-pyrimidinedione | 2.96 mmol, 1.0 g | NC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C12H8ClF4N3O2
reactant | triethylamine | 6.52 mmol, 0.91 mL | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 3.26 mmol, 0.25 mL | C(=S)(Cl)Cl | CCl2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl isothiocyanate | 1.1 g, 98% yield | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C=S | C13H6ClF4N3O2S
